US07601722B2
In an analogous manner to general procedure V, 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide was reacted with ammonia to provide (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine hydrochloride:

reactant | 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | ClC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | C17H16ClFN2O2S
reactant | ammonia | N | H3N
product | (2Z)-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine hydrochloride | Cl.FC1=C(C=CC(=C1)C)N1S(N(C2=C1C=CC=C2)C\C=C/CN)(=O)=O | InChI=1S/C17H18FN3O2S.ClH/c1-13-8-9-15(14(18)12-13)21-17-7-3-2-6-16(17)20(24(21,22)23)11-5-4-10-19;/h2-9,12H,10-11,19H2,1H3;1H/b5-4-;
